US07834063B2
4-[(2,2-Dimethylpropyl)(2-{[4-(methylsulfonyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-methanesulfonylphenol: MS (ESI) m/z 455 (M+1).

reactant | 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO)(C)C | C15H19F3N2O
reactant | 4-methanesulfonylphenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
product | 4-[(2,2-Dimethylpropyl)(2-{[4-(methylsulfonyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)S(=O)(=O)C)(C)C | C22H25F3N2O3S
